US05330986
Indole-7-carboxylic acid (3.20 g, 0.020 mole) was dissolved in 30 ml of dimethylformamide (DMF) and chilled with an ice-water bath. N,N'-Carbonyldiimidazole was added (3.3 g, 0.020 mole) and the reaction mixture was stirred for 1 hour in the cold. At the end of this time N-methylpiperazine was added (2.5 g, 0.025 mole) and the reaction was allowed to come to room temperature overnight (about 16 hours). The DMF was removed under reduced pressure and the residue was passed over a column of basic alumina (50% methanol-ether) to remove residual imidazole.Recrystallization of the product from CH2Cl2 -pentane gave 2.35 g (48%) of 1-(1H-indole-7-ylcarbonyl)-4-methylpiperazine, m.p. 176°-178° C.

reactant | Indole-7-carboxylic acid | 0.020 mole, 3.20 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(1H-indole-7-ylcarbonyl)-4-methylpiperazine | 2.35 g, 48% | N1C=CC2=CC=CC(=C12)C(=O)N1CCN(CC1)C | C14H17N3O
